US07579351B2
7-Hydroxy-3,4-dihydro-2H-2,4a,5-triaza-fluoren-1-one
The suspension consistent of 0.20 g (0.68 mmol) 7-benzyloxy-3,4-dihydro-2H-2,4a,5-triaza-fluoren-1-one and 30 μg palladium on activated charcoal (10% Pd; commercially available) in 2 mL formic acid was hydrogenated at room temperature at 1.5 bar for 3 hours. The reaction mixture was filtered over dicalite speed plus® (Aldrich), the filter cake was washed with formic acid and the volatile components were evaporated at a rotary evaporator. The residue was stirred in 3 mL ethyl acetate, filtered and the light brown product (65%) was dried under high vacuum.

reactant | 7-benzyloxy-3,4-dihydro-2H-2,4a,5-triaza-fluoren-1-one | 0.68 mmol, 0.20 g | C(C1=CC=CC=C1)OC1=CN=C2N3CCNC(C3=CC2=C1)=O | C17H15N3O2
catalyst | palladium on activated charcoal | 30 μg | [Pd] | Pd
solvent | formic acid | 2 mL | C(=O)O | CH2O2
product | 7-Hydroxy-3,4-dihydro-2H-2,4a,5-triaza-fluoren-1-one | OC1=CN=C2N3CCNC(C3=CC2=C1)=O | C10H9N3O2
